US05731315
C. 3-(3-(S)-Amino-2-oxo-pyrrolidin-1-ylmethyl)-benzonitrile hydrochloride
To a solution of [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-carbamic acid tert-butyl ester (9.1 g, 29 mmol) in 150 mL of EtOAc at 0° C. is bubbled HCl gas for 10 min. After this time, the solution is stirred for 4 h. The solution is then concentrated to afford the title compound (7.3 g, 29 mmol) as a white solid.

reactant | [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-carbamic acid tert-butyl ester | 29 mmol, 9.1 g | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)CC1=CC(=CC=C1)C#N)=O)=O | C17H21N3O3
reactant | HCl | Cl | ClH
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 3-(3-(S)-Amino-2-oxo-pyrrolidin-1-ylmethyl)-benzonitrile hydrochloride | 29 mmol, 7.3 g | Cl.N[C@@H]1C(N(CC1)CC=1C=C(C#N)C=CC1)=O | InChI=1S/C12H13N3O.ClH/c13-7-9-2-1-3-10(6-9)8-15-5-4-11(14)12(15)16;/h1-3,6,11H,4-5,8,14H2;1H/t11-;/m0./s1
